US07247626B2
N-Cyclopentyl-7-phenylpyrazolo[1,5-a][1,3,5]triazin-4amine (0.25 g, 0.90 mmol) was dissolved in dichlorornethane. To this solution was added N-iodosuccinimide (300 mg, 1.33 mmol) and the resulting solution was stirred at room temperature for 30 minutes. Additional dichloromethane was added and the reaction mixture was extracted with 1N aqueous sodium hydroxide and with water. The organic phase was dried (magnesium sulfate), filtered and concentrated to give a solid. This solid was purified by silica gel chromatography (ethyl acetate:hexane 1:1) to give 310 mg (85%) of N-cyclopentyl-8-iodo-7-phenylpyrazolo[1,5-a][1,3,5]triazin-4-amine as a yellow solid. 1H-NMR (CDCl3): δ 8.35 (s, 1H), 7.98 (m, 2H), 7.55 (m, 3H), 6.64 (d, 1H), 4.60 (m, 1H), 2.3–2.1 (m, 2H), 2.0–1.6 (m, 6H); MS m/z 406 (M+1).

reactant | N-Cyclopentyl-7-phenylpyrazolo[1,5-a][1,3,5]triazin-4amine | 0.90 mmol, 0.25 g | C1(CCCC1)NC1=NC=NC=2N1N=C(C2)C2=CC=CC=C2 | C16H17N5
reactant | N-iodosuccinimide | 1.33 mmol, 300 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | dichlorornethane | ClCCl | CH2Cl2
product | N-cyclopentyl-8-iodo-7-phenylpyrazolo[1,5-a][1,3,5]triazin-4-amine | 310 mg, 85% | C1(CCCC1)NC1=NC=NC=2N1N=C(C2I)C2=CC=CC=C2 | C16H16IN5
